US05177087
1-Acetyl-4-(4-piperidinobenzoylmethyl)piperidine
A mixture consisting of 1.84 g of 1-acetyl-4-(4-fluorobenzoylmethyl)piperidine and 5 ml of piperidine was stirred under heating at 100° C. for 20 hours. After completion of the reaction, the reaction mixture was diluted with a saturated aqueous solution of sodium hydrogen carbonate and extracted with ethyl acetate. After drying, the solvent was ditilled off and the oily residue was purified by silica gel column chromatography (eluent: ehtyl acetate) to give 2.2 g of a pale yellow oil.

reactant | 1-acetyl-4-(4-fluorobenzoylmethyl)piperidine | 1.84 g | C(C)(=O)N1CCC(CC1)CC(C1=CC=C(C=C1)F)=O | C15H18FNO2
reactant | piperidine | 5 ml | N1CCCCC1 | C5H11N
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 1-Acetyl-4-(4-piperidinobenzoylmethyl)piperidine | 2.2 g | C(C)(=O)N1CCC(CC1)CC(C1=CC=C(C=C1)N1CCCCC1)=O | C20H28N2O2
